US05739345
5-{4-(3-Ethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}thiazolidine-2,4-dione (Compound No. 1-121)
12 ml of a 3: 1 by volume mixture of acetic acid and water were added to 300 mg of 5-{4-(3-ethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 29), and the resulting mixture was stirred at 60° C. for 2 hours. At the end of this time, the reaction mixture was neutralized by the addition of sodium hydrogencarbonate, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent, to give 85 mg of the title compound, melting at 210°-212° C.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 5-{4-(3-ethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 300 mg | C(C)N1C(=NC=2C1=NC=CC2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C38H32N4O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 5-{4-(3-Ethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}thiazolidine-2,4-dione | 85 mg | C(C)N1C(=NC=2C1=NC=CC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C19H18N4O3S
